US06262074B1
Step 2: 1,8-Dimethyl-1,2,3,4-tetrahydroquinoline-5-carboxylic acid
24 mmol of sodium cyanoborohydride were added to 5 mmol of 8-methyl-1,2,3,4-tetrahydroquinoline-5-carboxylic acid and 50 mmol of paraformaldehyde in 30 ml of glacial acetic acid, the temperature being kept below 30° C. using an ice bath. The mixture was stirred at room temperature for 15 hours and then poured onto ice and adjusted to pH 4 using aqueous sodium hydroxide solution. The mixture was then extracted with ethyl acetate and the organic phase was washed with water, dried over sodium sulfate and concentrated.

reactant | sodium cyanoborohydride | 24 mmol | C(#N)[BH3-].[Na+]
reactant | 8-methyl-1,2,3,4-tetrahydroquinoline-5-carboxylic acid | 5 mmol | CC1=CC=C(C=2CCCNC12)C(=O)O | C11H13NO2
reactant | paraformaldehyde | 50 mmol | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 1,8-Dimethyl-1,2,3,4-tetrahydroquinoline-5-carboxylic acid | CN1CCCC=2C(=CC=C(C12)C)C(=O)O | C12H15NO2
